US08383838B2
2,3-Dihydro-benzo[b]oxepine-4-carboxylic acid pyridin-2-ylamide
10 ml of 2-aminopyridine were dissolved in 10 ml thetrahydrofurane. 2,3-Dihydro-benzo[b]oxepine-4-carbonylchloride (1.1 mmol) dissolved in 2 ml tetrahydrofurane were added dropwise. The reaction mixture was quenched by water and extracted with diethylether. The diethylether phase was washed by 1 mol/l sodiumhydroxide and dried over sodiumsulfate. Evaporation of the solvent yielded 230 mg of crude product which was purified by preparative HPLC (Chromolith prep. RP18, Solvent A water:acetonitrile 90:10+0.1% formic acid, solvent B: water:acetonitrile 10:90+0.1% formic acid, flow: t=0 min 25 ml/min, t=1 min 50 ml/min, gradient: t=0 min 10% B, t=1 min 10% B, t=2 min 10% B, t=2.2 min 20% B, t=7.5 min 50% B, t=7.6 min 100% B, t=8.5 min 100% B). Form this 85 mg of 2,3-Dihydro-benzo[b]oxepine-4-carboxylic acid pyridin-2-ylamide. LC-MS 1.6 min, 267.2 (MH+) 1H-NMR: (DMSO-d6, 500 MHz) d [ppm] 10.358 (s, 1H), 8.370 (m, 1H, J=1 Hz), 8.109 (m, 1H, J=4 Hz), 7.815 (m, 1H, J=2.4 Hz), 7.474 (m, 1H, J=2.3 Hz), 7.392 (s, 1H), 7.277 (m, 1H, J=1.7 Hz), 7.140 (m, 1H, J=1.9 Hz), 7.068 (m, 1H, J=3.2 Hz), 6.983 (m, 1H, J=1.9 Hz), 4.259 (m, 2H, J=3.1 Hz), 2.985 (m, 2H, J=2.6 Hz)

reactant | 2-aminopyridine | 10 ml | NC1=NC=CC=C1 | C5H6N2
reactant | 2,3-Dihydro-benzo[b]oxepine-4-carbonylchloride | 1.1 mmol | O1C2=C(C=C(CC1)C(=O)Cl)C=CC=C2 | C11H9ClO2
solvent | tetrahydrofurane | 2 ml | O1CCCC1 | C4H8O
product | 2,3-Dihydro-benzo[b]oxepine-4-carboxylic acid pyridin-2-ylamide | 230 mg | N1=C(C=CC=C1)NC(=O)C1=CC2=C(OCC1)C=CC=C2 | C16H14N2O2
